US07544812B2
A solution of 2-methyl-3-(3-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester (0.113 g, 0.173 mmol) in ethanol (12 mL) was treated with aqueous 5 N NaOH (2 mL) and heated to reflux 1 h. The reaction mixture was cooled, the solvent removed in vacuo. The resultant residue was acidified with aqueous 1 N HCl (15 mL) and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford 0.108 g (100%) 2-methyl-3-(3-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-(4-trifluoromethyl-phenoxy)-propionic acid. 1H NMR. HRMS (ES+) m/z exact mass calc'd for C31H31N2O5F6 (M+1) 625.2137. Found m/z 625.2134.

reactant | 2-methyl-3-(3-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester | 0.173 mmol, 0.113 g | C(C)OC(C(CC1=CC(=CC=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(OC1=CC=C(C=C1)C(F)(F)F)C)=O | C33H34F6N2O5
reactant | NaOH | 5 N, 2 mL | [OH-].[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 2-methyl-3-(3-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-(4-trifluoromethyl-phenoxy)-propionic acid | 0.108 g, 100% | CC(C(=O)O)(CC1=CC(=CC=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)OC1=CC=C(C=C1)C(F)(F)F | C31H30F6N2O5
